US06187774B1
To a solution (150 ml) of 1-aza-2-methoxy-1-cycloheptene (23.6 g) in butanol was added 3-hydroxypropylcarbohydrazide (23 g) with stirring, and the mixture was refluxed under heating for 3 hours. After the completion of the reaction, the solvent was evaporated under reduced pressure, and the obtained residue was subjected to silica gel column chromatography to give 29 g of 3-(3-hydroxypropyl)-6,7,8,9-tetrahydro-5H-1,2,4-triazolo[4,3-a]azepine. To a solution of this compound (0.98 g) in dimethylformamide (20 ml) were added triethylamine (1.4 ml) and methanesulfonyl chloride (0.62 ml) with stirring. Then, 4-(6-fluoro-1,2-benzisoxazol-3-yl)piperidine (1.28 g), potassium carbonate (1.38 g) and potassium iodide (0.83 g) were added and the mixture was stirred for 4 hours at 60° C. After the completion of the reaction, the reaction mixture was poured into water, extracted with ethyl acetate, washed with water, and dried over magnesium sulfate. The solution was concentrated under reduced pressure to give 3-(3-(4-(6-fluoro-1,2-benzisoxazol-3-yl)piperidin-1-yl)propyl)-6,7,8,9-tetrahydro-5H-1,2,4-triazolo[4,3-a]azepine.

reactant | 1-aza-2-methoxy-1-cycloheptene | 150 ml, 23.6 g | NOC1=CCCCCC1 | C7H13NO
reactant | 3-hydroxypropylcarbohydrazide | 23 g | OCCCNNC(=O)NN | C4H12N4O2
reactant | butanol | C(CCC)O | C4H10O
product | 3-(3-hydroxypropyl)-6,7,8,9-tetrahydro-5H-1,2,4-triazolo[4,3-a]azepine | 29 g | OCCCC1=NN=C2N1CCCCC2 | C10H17N3O
